US08071818B2
c) (R,R)-Di-sec-butylphenol
To a 100-ml three-necked flask equipped with a magnetic stirrer, a reflux condenser, a thermocouple and an N2 inlet, was added tetrahydrofuran (THF) (9 ml), (R,R,R)-1-phenylethylcarbamic acid-2,6-di-sec-butylphenyl ester (1 g, 2.8 mmol), and 1.0 M sodium hydroxide (11.4 ml, 11.4 mmol). The resulting clear mixture was heated under N2 at 55-60° C. using a heating mantle and continued to stir at this temperature while monitoring the progress of the reaction by HPLC. After the reaction was finished (6-8 h) as judged by HPLC, the reaction mixture was cooled to 15° C. and filtered to remove precipitated urea. The filtered cake was washed with cold THF (5 ml). The filtrate and the wash were combined, acidified to pH 2-3 with 3.0 M hydrochloric acid (HCl) (3.5 ml). After stirring for 10 minutes (min), ether (10 ml) was added and then resulting mixture was vigorously stirred for 15 min after which layers were separated. The organic layer was washed with 3.0 M HCl (3 ml), brine (5 ml), dried magnesium sulfate (MgSO4), filtered to remove the drying agent, and then concentrated on a rotavap to give a semi solid yellow residue which was stirred with methyl tertiary butyl ether (MTBE) (3 ml) for 15 min and then filtered. The filtered cake was washed with MTBE (2 ml). The filtrate and the wash were combined, and then concentrated on a rotavap to give the title compound as a yellow oil (0.6 g, 100% crude yield) that was found to be greater than 93 A % pure by HPLC. The NMR (DMSO-d6) was found to be consistent with the structure.

reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
reactant | (R,R,R)-1-phenylethylcarbamic acid-2,6-di-sec-butylphenyl ester | 2.8 mmol, 1 g | [C@@H](C)(CC)C1=C(C(=CC=C1)[C@H](C)CC)OC(N[C@H](C)C1=CC=CC=C1)=O | C23H31NO2
reactant | sodium hydroxide | 11.4 mmol, 1.0 M, 11.4 ml | [OH-].[Na+]
solvent | methyl tertiary butyl ether | 3 ml | C(C)(C)(C)OC | C5H12O
product | (R,R)-Di-sec-butylphenol | 0.6 g | [C@@H](C)(CC)C=1C(=C(C=CC1)O)[C@H](C)CC | C14H22O
